* ============================================================
* Eoss measurement: quasi-static linear drain ramp 0->400 V with Vgs = 0
* DUT: IPZ60R040C7_L0  (Infineon CoolMOS C7 vendor model, Level-0)
* Eoss(400 V) = integral over the ramp of v(d) * (-i(vds)) dt
* Vendor Level-0 model.
* ============================================================
.param TEMP=25
.temp 25
.include "../models/infineon_c7_600v_spice_ngspice.lib"

Vds d 0 PWL(0 0 1m 400)
Xdut d g 0 IPZ60R040C7_L0
Vg  g 0 0

.options reltol=1e-5 abstol=1e-12 vntol=1e-7
.tran 1e-7 1.2m 0 1e-8

.control
run
let pv = v(d)*(-i(vds))
meas tran eoss   integ pv from=0        to=1m
meas tran qoss   integ (-i(vds)) from=0 to=1m
meas tran vfinal find v(d) at=1m
.endc
.end
