TI worked-example current-loop small-signal check
.include ucc28180.inc
Vcc vcc 0 15
Vvs vsense 0 5
Vvc vcomp 0 3
* TI eq100 atM1=.538, K1=7, GMI=.95mS, CICOMP=2.7nF.
Vis isense 0 PWL(0 -.0922285714285714 100u -.0922285714285714 100.001u -.0932285714285714)
Cic icomp 0 2.7n IC=3
Xu vcc vsense isense icomp vcomp gate 0 UCC28180_FN RFREQ=17724.859322
Rgate gate 0 10k
.options method=gear reltol=1e-5
.tran 10n 500u 0 10n uic
.control
set wr_singlescale
set wr_vecnames
set numdgt=17
run
wrdata current-loop.tsv v(icomp) v(xu.m1) v(xu.m2) v(gate) v(isense)
quit
.endc
.end
